US09302996B2
In trifluoroacetic acid (2.0 mL) and water (0.1 mL) was dissolved 2,2-dimethyl-3-({4-methyl-6′-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]-3,3′-bipyridin-6-yl}oxy)propanoic acid (80 mg), and the solution was stirred at room temperature for 7 hours. To the solution was added 2N aqueous sodium hydroxide solution to make a pH of the same 2 to 3, and the resulting mixture was extracted with ethyl acetate. The extract was washed with a saturated brine, the organic layer was separated and concentrated under reduced pressure. Isopropyl ether was added to the obtained residue, and the precipitated solid was collected by filtration and dried under reduced pressure to obtain 2,2-dimethyl-3-({4-methyl-6′-[5-(trifluoromethyl)-1H-imidazol-2-yl]-3,3′-bipyridin-6-yl}oxy)propanoic acid (30 mg).

reactant | 2,2-dimethyl-3-({4-methyl-6′-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]-3,3′-bipyridin-6-yl}oxy)propanoic acid | 80 mg | CC(C(=O)O)(COC1=CC(=C(C=N1)C=1C=NC(=CC1)C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C)C)C | C26H33F3N4O4Si
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | trifluoroacetic acid | 2.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 0.1 mL | O | H2O
product | 2,2-dimethyl-3-({4-methyl-6′-[5-(trifluoromethyl)-1H-imidazol-2-yl]-3,3′-bipyridin-6-yl}oxy)propanoic acid | 30 mg | CC(C(=O)O)(COC1=CC(=C(C=N1)C=1C=NC(=CC1)C=1NC(=CN1)C(F)(F)F)C)C | C20H19F3N4O3
